US04623728
1-(3-Phenylpropyl)-3-(3-methoxyphenyl)piperidine
The 1-(3-phenylpropionyl)-3-(3-methoxyphenyl)piperidine was dissolved in 150 ml of dry tetrahydrofuran, and the solution was added to a suspension of 8.59 g (226 mmole) of lithium aluminum hydride in 150 ml of dry tetrahydrofuran, at room temperature. The resulting mixture was heated under reflux for 1 hour and then it was cooled in an ice-bath. To the cooled mixture was added, dropwise, with stirring, 43 ml of 3% aqueous sodium hydroxide, followed by 400 ml of diethyl ether. Stirring was continued for 45 minutes, and then the mixture was filtered. The filtrate was evaporated in vacuo to give 18.4 g of material.

reactant | 1-(3-phenylpropionyl)-3-(3-methoxyphenyl)piperidine | C1(=CC=CC=C1)CCC(=O)N1CC(CCC1)C1=CC(=CC=C1)OC | C21H25NO2
reactant | lithium aluminum hydride | 226 mmole, 8.59 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 43 ml | [OH-].[Na+]
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(3-Phenylpropyl)-3-(3-methoxyphenyl)piperidine | 18.4 g | C1(=CC=CC=C1)CCCN1CC(CCC1)C1=CC(=CC=C1)OC | C21H27NO
